US04892872
To a solution of 2.56 g of 3-aminoquinuclidine and 2.16 g of N-methylmorpholine in 40 ml of chloroform is added a solution of 4.72 g of 3,4-dihydro-4,6-dimethyl-3-oxo-2H-1,4-benzoxazine-8-carboxylic acid chloride in 20 ml of chloroform under cooling and stirring followed by stirring for 3 hours. The resultant solution is washed with water, aqueous sodium hydrogen carbonate and then water, and dried over magnesium sulfate. After the solvent is distilled off under reduced pressure, the residue is purified with column chromatography using chloroform as an eluent and treated with ethanolic hydrochloric acid to give 3,4-dihydro-4,6-dimethyl-3-oxo-N-(3-quinuclidinyl)-2H-1,4-benzoxazine-8-carboxamide hydrochloride, melting at 283°-284° C. with decomposition.

reactant | 3-aminoquinuclidine | 2.56 g | NC1CN2CCC1CC2 | C7H14N2
reactant | N-methylmorpholine | 2.16 g | CN1CCOCC1 | C5H11NO
reactant | 3,4-dihydro-4,6-dimethyl-3-oxo-2H-1,4-benzoxazine-8-carboxylic acid chloride | 4.72 g | CN1C(COC2=C1C=C(C=C2C(=O)Cl)C)=O | C11H10ClNO3
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 3,4-dihydro-4,6-dimethyl-3-oxo-N-(3-quinuclidinyl)-2H-1,4-benzoxazine-8-carboxamide hydrochloride | Cl.CN1C(COC2=C1C=C(C=C2C(=O)NC2CN1CCC2CC1)C)=O | InChI=1S/C18H23N3O3.ClH/c1-11-7-13(17-15(8-11)20(2)16(22)10-24-17)18(23)19-14-9-21-5-3-12(14)4-6-21;/h7-8,12,14H,3-6,9-10H2,1-2H3,(H,19,23);1H
